US07846929B2
Step C: Preparation of 4-iodo-1H-indazole:
A mixture of 4-amino-1H-indazole (50.0 g, 0.375 moles) in water (100 ml) and con. hydrochloric acid (182 ml) was cooled to −10° C. To this a solution of sodium nitrite (51.7 g, 0.75 moles) in water (75 ml) was added drop wise at −10° C. in about 30-60 min. (during addition frothing was observed). In another flask a mixture of potassium iodide (311 g, 1.87 moles) in water (3000 ml) was prepared at room temperature and to this above cooled diazonium salt at 30-40° C. was added in about 30-40 min. The reaction was maintained at 30° C. for 1 h and after completion of reaction, ethyl acetate (500 ml) was added and the reaction mixture was filtered through Celite. The layers were separated and the aq. layer was extracted with ethyl acetate (2×500 ml). The combined organic layers were washed with 5% hypo solution (2×500 ml), brine (500 ml), dried (Na2SO4) and concentrated. Crude product was purified by chromatography (silica gel, hexane, 15-20% ethyl acetate/hexane) to furnish product as an orange solid (23.0 g, 25%). m.p: 151-177 C: 1H NMR (200 MHz, CDCl3) δ 12.4 (br, 1H), 8.0 (s, 1H), 7.6 (dd, 2H), 7.1 (d, 1H). ESMS m/z 245 (M+1). Purity: 95-98% (HPLC).

reactant | 4-amino-1H-indazole | 0.375 moles, 50.0 g | NC1=C2C=NNC2=CC=C1 | C7H7N3
reactant | hydrochloric acid | 182 ml | Cl | ClH
reactant | sodium nitrite | 0.75 moles, 51.7 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 1.87 moles, 311 g | [I-].[K+]
solvent | water | 100 ml | O | H2O
solvent | water | 75 ml | O | H2O
solvent | water | 3000 ml | O | H2O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 4-iodo-1H-indazole | 23.0 g, 25% | IC1=C2C=NNC2=CC=C1 | C7H5IN2
